US07632875B2
(3-Hydroxy-phenyl)-carbamic acid tert-butyl ester
A solution of di-tert-butyldicarbonate (4.4 g, 20 mmol) and triethylamine (2.22 g, 20 mmol) in 20 ml anhydrous tetrahydrofuran under nitrogen atmosphere was cooled in an icebath. To this was added 3-aminophenol (2 g, 18.3 mmol). The mixture was then stirred at room temperature for 17.5 hr. A solution of 5% NaHCO3 (50 ml) was added and the mixture was extracted into ethyl acetate (3×40 ml). The combined extracts were washed with 50 ml each of water and brine and then dried over magnesium sulfate. The crude concentrate was purified by column chromatography, eluting with 15% ethyl acetate in hexane to give 2.6 g oil, >97.5% pure by HPLC.

reactant | di-tert-butyldicarbonate | 20 mmol, 4.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 20 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenol | 18.3 mmol, 2 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3-Hydroxy-phenyl)-carbamic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)O)=O | C11H15NO3
